US08871948B2
To a solution of 2-iodo-4-nitroaniline (1.02 g, 3.86 mmol) in dichloromethane (10 ml), has been added under stirring triethylamine (1.77 ml, 12.7 mmol). To this mixture, a solution of methanesulphonyl chloride (0.98 ml, 12.7 mmol) in dichloromethane (2 ml) has been added dropwise, very slowly and in an ice-bath. The mixture so obtained was left under stirring at room temperature overnight. The day after, the reaction mixture was neutralized with a saturated aqueous solution of NH4Cl. The organic phase was separated, and, after evaporation of the solvent, the residue has been washed with ethanol and filtered to give N-(2-iodo-4-nitrophenyl)-N-(methylsulfonyl)-methanesulfonamide as yellow solid.

reactant | 2-iodo-4-nitroaniline | 3.86 mmol, 1.02 g | IC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5IN2O2
reactant | methanesulphonyl chloride | 12.7 mmol, 0.98 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(2-iodo-4-nitrophenyl)-N-(methylsulfonyl)-methanesulfonamide | IC1=C(C=CC(=C1)[N+](=O)[O-])N(S(=O)(=O)C)S(=O)(=O)C | C8H9IN2O6S2
